US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(3-(pyrrolidin-1-yl)propyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-[4-(3-bromo-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.40 g, 0.92 mmol) in N,N-dimethylformamide (10 mL) was added pyrrolidine (0.39 g, 5.52 mmol) and the reaction mixture was stirred at room temperature for 16 hours. DMF was removed under reduced pressure, the residue was purified by column chromatography (silica gel 230-400 mesh; 5% methanol ammonia in dichloromethane as eluent) to give the title compound as a white solid. Yield: 0.27 g (69%). MP 194-196° C. 1H NMR (400 MHz, DMSO-d6): δ 11.79 (br s, 1H), 7.81 (s, 2H), 6.72 (d, J=2.3 Hz, 1H), 6.50 (d, J=2.3 Hz, 1H), 4.00 (s, 3H), 3.87 (s, 3H), 2.67-2.63 (m, 2H), 2.49-2.46 (m, 6H), 2.33 (s, 6H), 1.70-1.67 (m, 4H), 1.59-1.53 (m, 2H). MS (ES+) m/z: 422.17 (M+1).

reactant | 2-[4-(3-bromo-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.92 mmol, 0.40 g | BrCCCC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C21H23BrN2O3
reactant | pyrrolidine | 5.52 mmol, 0.39 g | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(3,5-Dimethyl-4-(3-(pyrrolidin-1-yl)propyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | CC=1C=C(C=C(C1CCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C25H31N3O3
